US06316445B1
Cool a solution of lithium aluminum hydride (42.6 mL, 1.0 M in tetrahydrofuran, 42.6 mmol) to about −10° C. Add dropwise a solution of sulfuric acid (2.1 g) in tetrahydrofuran (5 mL) while maintaining the temperature of the reaction mixture at less than 0° C. After 20 minutes, warm to ambient temperature. Add a solution of (S)-2-(3,4-dichlorophenyl)pent-4-enoic acid, N-methyl amide (4.8 g, 18.8 mmol) and tetrahydrofuran (25 mL). After the addition is complete, heat the reaction mixture abbot t 35° C. After 15 hours, cool in an ice bath and carefully quench by the addition of water (5 mL) and tetrahydrofuran (5 mL). Add tetrahydrofuran (60 mL) and filter, and evaporate the filtrate in vacuo to give a residue. Combine the residue and dichloromethane, extract with water, dry over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 1% methanol/dichloromethane, 2% methanol/dichloromethane, 3% methanol/dichloromethane, and 4% methanol/dichloromethane to give (S)-N-methyl-(2-(3,4-dichlorophenyl)pent-4-enyl)amine: Rf=0.54 (silica gel, 9/1/0.1 dichloromethane/methanol/concentrated aqueous ammonia).

reactant | lithium aluminum hydride | 42.6 mmol, 1.0 M, 42.6 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulfuric acid | 2.1 g | S(O)(O)(=O)=O | H2O4S
reactant | (S)-2-(3,4-dichlorophenyl)pent-4-enoic acid, N-methyl amide | 18.8 mmol, 4.8 g | CNC([C@@H](CC=C)C1=CC(=C(C=C1)Cl)Cl)=O | C12H13Cl2NO
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | methanol dichloromethane | CO.ClCCl
product | (S)-N-methyl-(2-(3,4-dichlorophenyl)pent-4-enyl)amine | CNC[C@@H](CC=C)C1=CC(=C(C=C1)Cl)Cl | C12H15Cl2N
